US06235771B1
To a suspension of 4-methoxyphenol (26.7 g) and potassium carbonate (32.8 g) in DMF (150 ml) was added bromoacetaldehydedimethylacetal (40.1 g), and the mixture was refluxed for 2.5 hours and cooled. To the mixture was added water, and the mixture was extracted with ethyl acetate (twice). The organic layer was washed with 1N sodium hydroxide solution (twice) and then washed with saturated brine, and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated to give dark brown oil of 4-methoxy-(2,2-dimethoxy)ethoxybenzene (40.4 g).

reactant | 4-methoxyphenol | 26.7 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | potassium carbonate | 32.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetaldehydedimethylacetal | 40.1 g | CC(C)CBr | C4H9Br
reactant | water | O | H2O
reactant | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 4-methoxy-(2,2-dimethoxy)ethoxybenzene | 40.4 g | COC1=CC=C(C=C1)OCC(OC)OC | C11H16O4
